datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"O=P([O-])([O-])C(c1ccccc1[O-])[NH:10]Cc1ccncc1.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>O=P([O-])([O-])C(c1ccccc1[O-])[NH+:10](Cc1ccncc1)[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"CC(C)(C)[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CC(C)(C)[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC(C)C[N-:10][N+](=O)[O-].CN1CCC/C1=[O+:21]/[H:20]>>CC(C)C[N:10]([N+](=O)[O-])[H:20].CN1CCCC1=[O:21] 10=20;20,21=21",
"Cc1ccccc1SCC(=O)[O:21][H:20].O=[N+]([O-])c1ccc([O-:10])c(C[NH+]2CCOCC2)c1>>Cc1ccccc1SCC(=O)[O-:21].O=[N+]([O-])c1ccc([O:10][H:20])c(C[NH+]2CCOCC2)c1 10=20;20,21=21",
"CC(=O)Nc1ccc2c(c1)cc1ccccc1[n:10]2.c1ccc(-c2cccc([NH2+:21][H:20])c2)cc1>>CC(=O)Nc1ccc2c(c1)cc1ccccc1[n+:10]2[H:20].c1ccc(-c2cccc([NH2:21])c2)cc1 10=20;20,21=21",
"CC1C[NH:10]CC[NH2+]1.Cc1ccc(N)cc1-c1cc([NH2+:21][H:20])ccc1C>>CC1C[NH+:10]([H:20])CC[NH2+]1.Cc1ccc(N)cc1-c1cc([NH2:21])ccc1C 10=20;20,21=21",
"CN(c1ccccc1)C(O)[O:21][H:20].Oc1ccc(Cl)cc1C[N:10]1CCOCC1>>CN(c1ccccc1)C(O)[O-:21].Oc1ccc(Cl)cc1C[N+:10]1([H:20])CCOCC1 10=20;20,21=21",
"CC(C)([Se-])C[NH2:10].CC(C)=CCC1C(=O)C(CC=C(C)C)(CC=C(C)C)C(O)(C(=O)[O:21][H:20])C1=O>>CC(C)([Se-])C[NH2+:10][H:20].CC(C)=CCC1C(=O)C(CC=C(C)C)(CC=C(C)C)C(O)(C(=O)[O-:21])C1=O 10=20;20,21=21",
"CCCC[O-:10].O=C(C1=CC=NC=C1)[CH:21](C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1)[H:20]>>CCCC[O:10][H:20].O=C(C1=CC=NC=C1)[CH-:21]C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1 10=20;20,21=21",
"C1CCc2n[n:10]c3c(c2CC1)CCCC3.CC(=O)n1c[n+:21]([H:20])c2ccccc21>>C1CCc2n[n+:10]([H:20])c3c(c2CC1)CCCC3.CC(=O)n1c[n:21]c2ccccc21 10=20;20,21=21",
"CC[N:10](CC)CCNc1nc(N)nc(C)c1C.COc1ccc(CO[NH2+:21][H:20])cc1>>CC[N+:10](CC)(CCNc1nc(N)nc(C)c1C)[H:20].COc1ccc(CO[NH2:21])cc1 10=20;20,21=21",
"N#CC(C#N)=N[N:21](c1ccc(OC(F)(F)F)cc1)[H:20].c1c2c(cc3c1[nH]c[n:10]3)CCCC2>>N#CC(C#N)=N[N-:21]c1ccc(OC(F)(F)F)cc1.c1c2c(cc3c1[nH]c[n+:10]3[H:20])CCCC2 10=20;20,21=21",
"COCCSC(C)[O-:10].C[C:21](C1=CC=C([N+](=O)[O-])C=C1)([N+](=O)[O-])[H:20]>>COCCSC(C)[O:10][H:20].C[C-:21](C1=CC=C([N+](=O)[O-])C=C1)[N+](=O)[O-] 10=20;20,21=21",
"Cc1cc([N+](=O)[O-])cc(C)c1[NH2+:21][H:20].NC(=O)[C@H](N)[C@H](O)C(=O)[O-:10]>>Cc1cc([N+](=O)[O-])cc(C)c1[NH2:21].NC(=O)[C@H](N)[C@H](O)C(=O)[O:10][H:20] 10=20;20,21=21",
"Cc1cc(/N=N/c2ccc(S(N)(=O)=O)cc2)cc(C(=O)[O-:10])c1O.O=S(=O)(Nc1cccc[nH+]1)c1ccc([NH2+:21][H:20])cc1>>Cc1cc(/N=N/c2ccc(S(N)(=O)=O)cc2)cc(C(=O)[O:10][H:20])c1O.O=S(=O)(Nc1cccc[nH+]1)c1ccc([NH2:21])cc1 10=20;20,21=21",
"[H:20][NH2+:21]CCOC.[CH-:10]1C2=C(C=CC=C2)SC1=O>>[H:20][CH:10]1C2=C(C=CC=C2)SC1=O.COCC[NH2:21] 10=20;20,21=21",
"C[N:10](CC1CO1)CC1CO1.Cc1cc(C(=O)[O:21][H:20])ccc1O>>C[N+:10](CC1CO1)(CC1CO1)[H:20].Cc1cc(C(=O)[O-:21])ccc1O 10=20;20,21=21",
"Oc1ccc(C[NH2:10])cc1O.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Oc1ccc(C[NH2+:10][H:20])cc1O.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C=CCc1ccccc1OCC(O)C[NH:10]C(C)C.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C=CCc1ccccc1OCC(O)C[NH+:10](C(C)C)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Clc1ccc(-c2ncc(-c3ccc([NH2:10])cc3)o2)cc1.O=C(CCc1nnnn1-c1ccccc1)[O:21][H:20]>>Clc1ccc(-c2ncc(-c3ccc([NH2+:10][H:20])cc3)o2)cc1.O=C(CCc1nnnn1-c1ccccc1)[O-:21] 10=20;20,21=21",
"NC(CC[NH2:10])=NO.O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>NC(CC[NH2+:10][H:20])=NO.O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"O=C1Oc2cc([O:21][H:20])ccc2C=C1c1nc2cc(Cl)ccc2o1.c1c[nH]c(C[S-:10])n1>>O=C1Oc2cc([O-:21])ccc2C=C1c1nc2cc(Cl)ccc2o1.c1c[nH]c(C[S:10][H:20])n1 10=20;20,21=21",
"CC(C)[O-:10].O=C(C1=CN=CC=C1)[CH:21](C1=CC=C([N+](=O)[O-])C=C1)[H:20]>>CC(C)[O:10][H:20].O=C(C1=CN=CC=C1)[CH-:21]C1=CC=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"CC(C)(C)Cc1ccc([O-:10])cc1.Cc1c(C)c([O:21][H:20])c(C)c(C)c1O>>CC(C)(C)Cc1ccc([O:10][H:20])cc1.Cc1c(C)c([O-:21])c(C)c(C)c1O 10=20;20,21=21",
"C1CC2CC1N[NH+:21]2[H:20].C=C(C)C(=O)OCC[N:10](C)C>>C1CC2CC1N[NH:21]2.C=C(C)C(=O)OCC[N+:10](C)(C)[H:20] 10=20;20,21=21",
"CC1CCCC(C)(C)[NH:10]1.O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20]>>CC1CCCC(C)(C)[NH+:10]1[H:20].O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-] 10=20;20,21=21",
"CCCCCCCCCCCCCCC[NH:10]CCCCCCCCCCCCCCC.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CCCCCCCCCCCCCCC[NH+:10](CCCCCCCCCCCCCCC)[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"NC(=O)c1ccccc1[O-:10].Nc1n[nH]c(N)c1/N=N/c1ccc([O:21][H:20])cc1>>NC(=O)c1ccccc1[O:10][H:20].Nc1n[nH]c(N)c1/N=N/c1ccc([O-:21])cc1 10=20;20,21=21",
"C(c1nnn[n-]1)[NH2+:21][H:20].CC(C)C(O[C@H]1O[C@@H](C(=O)[O-:10])[C@H](O)[C@@H](O)[C@@H]1O)C(C)C>>C(c1nnn[n-]1)[NH2:21].CC(C)C(O[C@H]1O[C@@H](C(=O)[O:10][H:20])[C@H](O)[C@@H](O)[C@@H]1O)C(C)C 10=20;20,21=21",
"Cc1c[n+:21]([H:20])c2c(O)cccc2c1C.O=C(CCCCc1ccccc1)[O-:10]>>Cc1c[n:21]c2c(O)cccc2c1C.O=C(CCCCc1ccccc1)[O:10][H:20] 10=20;20,21=21",
